US07282588B2
2-methyl-4-(4-nitrophenyl)-1,3-thiazole
A solution of 3-bromo-(4-nitrophenyl)-ethanone (2.5 mmol) and thioacetamide (3 mmol) in N,N-dimethylformamide (20 mL) was heated at 65° C. for 8 h. Ethyl acetate (40 mL) was added and the solution was washed with water (3×20 mL). The product was purified by crystallization from ether to give the title product (80%). ESMS [M+H]+: 221.2

reactant | 3-bromo-(4-nitrophenyl)-ethanone | 2.5 mmol | BrC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C8H6BrNO3
reactant | thioacetamide | 3 mmol | C(C)(=S)N | C2H5NS
reactant | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-methyl-4-(4-nitrophenyl)-1,3-thiazole | 80% | CC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H8N2O2S
